US06492562B1
E. (±)-N-[(2R*,3S*)-(2-Methyl-3-hydroxyheptanoyl)]-2-benzoxazolone
This compound was prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolinone with pentanal.

reactant | N-propionyl-2-benzoxazolinone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | pentanal | C(CCCC)=O | C5H10O
product | (±)-N-[(2R*,3S*)-(2-Methyl-3-hydroxyheptanoyl)]-2-benzoxazolone | C[C@@H](C(=O)N1C(OC2=C1C=CC=C2)=O)[C@H](CCCC)O | C15H19NO4
